US06713471B1
2-Bromo-5-fluoro-N-methoxy-N-methylbenzamide (4.0 g, 0.015 mol) was dissolved in THF (30 mL) and the solution was cooled to 0° C. under N2blanket. Methyl magnesium bromide (15.26 mL, 0.046 mol) was added dropwise over 30 min. The solution was warmed to room temperature and stirred for 1 hour. The solution was cooled to 0° C. and quenched with HCl/EtOH (9 mL, 4 M solution). The reaction mixture was transferred to a separatory funnel, diluted with H2O (30 mL), and extracted with Ethyl Acetate (2×40 mL). The combined organic extracts were washed with H2O, brine, and dried over Na2SO4. The solution was concentrated to afford 1-(2-bromo-5-fluorophenyl)ethanone as a yellow oil in 93% yield . This material was used in the subsequent step without further purification. 1H NMR (CDCl3, 500 MHz) δ2.61 (s, 3H), 7.00-7.04 (m, 1H) 7.15-7.18 (m, 1H), 7.53-7.59 (m, 1H).

reactant | 2-Bromo-5-fluoro-N-methoxy-N-methylbenzamide | 0.015 mol, 4.0 g | BrC1=C(C(=O)N(C)OC)C=C(C=C1)F | C9H9BrFNO2
reactant | Methyl magnesium bromide | 0.046 mol, 15.26 mL | C[Mg]Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(2-bromo-5-fluorophenyl)ethanone | 93% yield | BrC1=C(C=C(C=C1)F)C(C)=O | C8H6BrFO
